US05994356
b) 4-tert-Butyloxycarbonyl-1-(4-methoxycarbonylmethyloxyphenyl)-2-methylpiperazine
A suspension of 6 g (0.0205 mol) of 4-tert-butyloxycarbonyl-1-(4-hydroxyphenyl)-2-methylpiperazine, 2.4 ml (0.0246 mol) of methyl bromoacetate and 3.4 g (0.0246 mol) of potassium carbonate in 50 ml of dimethylformamide is heated at 100° C. for 6 hours and, after cooling, concentrated to dryness in vacuo. The residue is partitioned between ethyl acetate and water and the aqueous phase is extracted once more with ethyl acetate. The combined ethyl acetate extracts are concentrated to dryness in vacuo. The residue is purified by means of chromatography on a silica gel column, ethyl acetate/cyclohexane being used as eluent. After evaporation, the residue is crystallized from ether/petroleum ether.

reactant | 4-tert-butyloxycarbonyl-1-(4-hydroxyphenyl)-2-methylpiperazine | 0.0205 mol, 6 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)C1=CC=C(C=C1)O)C | C16H24N2O3
reactant | methyl bromoacetate | 0.0246 mol, 2.4 ml | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 0.0246 mol, 3.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-tert-Butyloxycarbonyl-1-(4-methoxycarbonylmethyloxyphenyl)-2-methylpiperazine | C(C)(C)(C)OC(=O)N1CC(N(CC1)C1=CC=C(C=C1)OCC(=O)OC)C | C19H28N2O5
